US07091372B2
A solution of tricyclohexylphophine (46 mg, 0.164 mmol) in tetrahydrofuran (2.5 mL) under nitrogen was charged with palladium (II) acetate (24.5mg, 0.109 mmol). The reaction mixture was stirred for 45 minutes, then cooled to 0° C. and charged with sodium tert-butoxide (270 mg, 2.73 mmol). After 5 minutes a solution of β-ethoxyacrylic acid ethyl ester (158 μL, 1.09 mmol) and 2-bromobenzyl phenyl sulfone (340 mg, 1.09 mmol) in tetrahydrofuran (2.5 mL) was added dropwise over 2 minutes. Upon complete addition the reaction was warmed to room temperature and then heated to 60° C. for 2 hours. The reaction was cooled to room temperature, then diluted with methyl tert-butyl ether (25 mL) and poured into aqueous potassium dihydrogen phosphate (0.25 M, 25 mL), pH=7. The aqueous layer was separated and saturated by addition of solid sodium chloride and extracted with ethyl acetate (2×50 mL). The organic layer was separated and washed twice with aqueous saturated sodium chloride (2×30 mL), dried over sodium sulfate, filtered and concentrated in vacuo affording 3-benzenesulfonyl-3H-indene-1-carboxylic acid ethyl ester as a light orange oil (304 mg, 0.925 mmol, 85%). 1H NMR (400 MHz, CDCl3) δ 7.88–7.86 (m, 1H), 7.75–7.72 (m, 1H), 7.49–7.43 (m, 3H), 7.36–7.32 (m, 2H), 7.27–7.25 (m, 3H), 5.15 (d, 1H, J=2.1), 4.27 (q, 2H, J=7.1), 1.34 (t, 3H, J=7.1); IR (ATR, neat) 1709, 1649, 1463, 1444, 1314, 1271, 1247, 1188, 1133, 1081, 1044, 773, 752, 722, 686, 575, 528.

reactant | tricyclohexylphophine | 0.164 mmol, 46 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | sodium tert-butoxide | 2.73 mmol, 270 mg | CC(C)([O-])C.[Na+]
reactant | β-ethoxyacrylic acid ethyl ester | 1.09 mmol, 158 μL | C(C)OC(C=COCC)=O | C7H12O3
reactant | 2-bromobenzyl phenyl sulfone | 1.09 mmol, 340 mg | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=CC=C1)Br | C13H11BrO2S
reactant | potassium dihydrogen phosphate | 0.25 M, 25 mL | P(=O)(O)(O)[O-].[K+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | methyl tert-butyl ether | 25 mL | C(C)(C)(C)OC | C5H12O
catalyst | palladium (II) acetate | 0.109 mmol, 24.5mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-benzenesulfonyl-3H-indene-1-carboxylic acid ethyl ester | 0.925 mmol, 304 mg, 85% | C(C)OC(=O)C1=CC(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C18H16O4S
